US07678820B2
To a solution of 3,4-diaminobenzonitrile (350 mg) in toluene (5.5 ml) was added CDI (554 mg), followed by stirring at 125° C. for 2 hours. To the reaction mixture was added a 1M aqueous NaOH solution (0.117 ml), followed by extraction with EtOAc. The organic layer was dried over anhydrous MgsO4, and then filtered, and the filtrate was concentrated. It was powdered/washed with IPE/IPA to obtain 2-oxo-2,3-dihydro-1H-benzimidazole-5-carbonitrile (423 mg) as colorless powders.

reactant | 3,4-diaminobenzonitrile | 350 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | CDI | 554 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NaOH | 1M, 0.117 ml | [OH-].[Na+]
solvent | toluene | 5.5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-oxo-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 423 mg | O=C1NC2=C(N1)C=CC(=C2)C#N | C8H5N3O
